Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
upper extremity swelling
 
Major Surgical or Invasive Procedure:
___ stenting
Diagnostic thoracentesis

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history of bilateral leg amputations due to train accident in
___ and a history of smoking who quit 30+ years ago who
presented to an outside hospital for evaluation of several weeks
of increasing shortness of breath and now with worsening
bilateral upper extremity edema.  He denies any recent fever,
chills, nausea, vomiting.  At the outside hospital he underwent 
a
chest CT which was notable for no evidence of pulmonary embolism
but a 4 cm right apical spiculated mass with adjacent right
paratracheal and suprahilar lymphadenopathy highly suspicious 
for
malignancy.  Given this finding he was transferred for further
evaluation.

In our emergency department the patient's initial vital signs
were stable.  Temperature 98.2, heart rate 110, BP 161/90,
respiratory rate 20, 96% on room air.  His labs were notable for
an anemia with a hemoglobin of 7.1, a normal lactic acid at 1.5,
normal UA, negative troponin, and negative bilateral upper
extremity ultrasounds.  Given the spiculated lung mass the
patient was admitted to the medical service for further
evaluation.

On arrival to the floor, the patient confirms the above history. 

He reports that over the course of the past several months she
has had a waxing and waning swelling of his face.  He reports
that he presented to his primary care doctor for evaluation who
checked labs including CBC and iron studies and reported that
they were normal and she should continue to take his iron pills. 

He reports that he continue to felt more fatigued and then last
several weeks has had increasing dyspnea on exertion.  This
ultimately culminated with swelling of both first the right 
upper
extremity and than the left upper extremity in the last week. 
This prompted further evaluation.  He was due to see an
outpatient provider who then on discussion over the phone
referred him into the emergency department for further
evaluation.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
Carpal tunnel release, bilateral, ___, treatment for 
Dupuytren's contracture in ___ and bilateral leg amputation due 
to a train accident in ___.
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
Admission exam
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. He has
promant vessels in his face, and upper arms. 
CV: Heart regular, no murmur, no S3, no S4.  No JVD. Elevated 
JVP
with prominate vesses on bilateral upper extermities
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 10:00PM BLOOD WBC-5.7 RBC-3.26* Hgb-10.1* Hct-31.7* 
MCV-97 MCH-31.0 MCHC-31.9* RDW-15.6* RDWSD-55.9* Plt ___
___ 10:00PM BLOOD Glucose-94 UreaN-15 Creat-0.8 Na-140 
K-4.0 Cl-102 HCO3-21* AnGap-17

Discharge labs
___ 07:30AM BLOOD WBC-5.9 RBC-3.24* Hgb-10.1* Hct-31.8* 
MCV-98 MCH-31.2 MCHC-31.8* RDW-15.1 RDWSD-54.4* Plt ___
___ 07:30AM BLOOD Glucose-73 UreaN-10 Creat-0.7 Na-140 
K-3.9 Cl-102 HCO3-25 AnGap-13

CTA/CTV ___
IMPRESSION:
 
 
1. Severe attenuation of the SVC by a large right lower 
paratracheal/hilar
mass, likely necrotic node.
2. 4.0 cm spiculated pulmonary mass in the right upper lobe with 
pleural
tagging and extension to the right paratracheal/hilar lymph 
node.
3. Moderate bilateral pleural effusions.
4. Subcentimeter sclerotic lesion in the C7 vertebral body as 
well as 2
sclerotic foci in the left lateral seventh ribs are of unclear 
etiology, can be further evaluated with bone scan to rule out 
metastatic disease.
 

UE dopplers ___
IMPRESSION: 
 
No evidence of deep vein thrombosis in the bilateral upper 
extremity 

Pleural fluid micro:  No growth at time of discharge
Pleural fluid:  Cytology pending at time of discharge

Blood culture
___ bottles positive for gram positive rod
___ Blood cultures

 
Brief Hospital Course:
Mr. ___ is a ___ male with the past medical history 
and findings noted above who presents with shortness of breath 
and upper extremity swelling and was found to have a 4 cm 
spiculated lung mass as well as suprahilar and paratracheal 
lymph nodes concerning for malignancy and SVC syndrome. 

ACUTE/ACTIVE PROBLEMS:
# Upper extremity Swelling with concern for SVC syndrome due to
# RUL Spiculated lung mass concerning for new malignancy: The 
patient presented with imaging consistent with a 4 cm right 
apical spiculated mass with adjacent right paratracheal and 
suprahilar lymphadenopathy highly suspicious for malignancy as 
well as b/l pleural effusions.  CTA/CTV confirmed large lymph 
node compressing SVC. ___ was consulted and performed SVC 
stenting and diagnostic thoracentesis.  He had dramatic 
improvement in his symptoms after SVC stenting.   He had 
improvement in his voice, decrease in facial, arm swelling.   
Pleural fluid cytology pending at time of discharge; if pleural 
fluid is diagnostic of malignancy, which is most likely 
diagnosis, he can f/u with oncology.  If non diagnostic, he will 
need to return for additional biopsy.   I will call the patient 
after discharge to inform him of result.  Interventional 
radiology will call him for f/u in ___ weeks for f/u for SVC 
stent.  

# Positive blood culture:  Had ___ bottles positive for gram 
positive rod.  Repeat blood cultures negative at time of 
discharge and patient without fevers.  Likely contaminant, will 
f/u repeat cultures.

CHRONIC/STABLE PROBLEMS:
#Anemia: Unclear baseline. On iron QOD day at home. 
-Trend daily

# S/p bilateral leg amputation: Due to a train accident in ___.
Hospitalized until ___. 
- Continue use of home prosthetics. 

Greater than ___ hour spent on care on day of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins W/minerals 1 TAB PO DAILY 
2. lutein 20 mg oral DAILY 
3. Aspirin 162 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Testosterone Gel 1% Dose is Unknown  TP DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  lutein 20 mg oral DAILY  
3.  Multivitamins W/minerals 1 TAB PO DAILY  
4.  Testosterone Gel 1% 50 mg TP DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
SVC syndrome
RUL mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were admitted for upper extremity swelling. ___ were found 
to have a R lung mass and an associated lymph node which was 
compressing your superior vena cava and causing the swelling. 
___ had a procedure to open the vessel with a stent and relieve 
swelling.  
We are waiting for our pathologists to review the fluid obtain 
from your lung to determine if it is cancerous.   I will all ___ 
on ___, to keep ___ updated.    If ___ do not hear 
from me, please call the medical floor at ___ on 
___ to ensure that we have communicated and have a 
plan for ___ going forward.
The interventional radiologists who placed the stent will call 
___ for a followup appointment.
 
Followup Instructions:
___